US09216968B2
Methyl 2-(methoxymethyl)-1H-benzimidazole-4-carboxylate
Methyl 2-amino-3-[(methoxyacetyl)amino]benzoate (280 mg) was dissolved in acetic acid (6 mL), and the solution was heated at 100° C. for 0.5 hour with stirring. After cooling the reaction mixture to room temperature, acetic acid was removed. To the residue was added saturated aqueous sodium bicarbonate under ice-cooling, and it was extracted with ethyl acetate. The organic layer was washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to obtain the titled compound (241 mg) as pale yellow powder.

reactant | Methyl 2-amino-3-[(methoxyacetyl)amino]benzoate | 280 mg | NC1=C(C(=O)OC)C=CC=C1NC(COC)=O | C11H14N2O4
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | Methyl 2-(methoxymethyl)-1H-benzimidazole-4-carboxylate | 241 mg | COCC1=NC2=C(N1)C=CC=C2C(=O)OC | C11H12N2O3
